US05700669
Hydrolysis of 7-Xylosyl-10-deacetylbaccatin-III
Cells were prepared as described in Example 4. 1 mg 7-xylosyl-10-deacetyltaxol, 200 mg (108 milliunits) C-13 deacylase (described in Example 4), 0.2 ml methanol, 0.2 ml 1 M potassium phosphate buffer pH 7, and 3.6 ml water were mixed end-over-end at 48 rpm for 17 hours at 24° C. After 15 hours, HPLC analysis by Method 1 showed complete removal of C-13 side chain from the substrate. 2 ml of the solution now containing 7-xylosyl-10-deacetylbaccatin-III was added to 1 ml of the above Moraxella sp. cells (0.24 g wet cell weight) in 50 mM potassium phosphate buffer pH 7 and mixed end-over-end for 24 hours at 48 rpm. Reaction mixtures were extracted with 6 ml CH2Cl2. Extracts were dried and redissolved in methanol for HPLC analysis by Method 1. 0.099 mg/ml 10-deacetylbaccatin-III was found (103% yield based on initial 7-xylosyl-10-deacetyltaxol concentration).

reactant | 7-xylosyl-10-deacetyltaxol | 1 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)C6=CC=CC=C6)O)O)OC(=O)C7=CC=CC=C7)(CO4)OC(=O)C)O[C@H]8[C@@H]([C@H]([C@@H](CO8)O)O)O)C)O | C50H57NO17
reactant | methanol | 0.2 ml | CO | CH4O
reactant | potassium phosphate | 1 M, 0.2 ml, pH 7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | 3.6 ml | O | H2O
product | 7-Xylosyl-10-deacetylbaccatin | 103% yield | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)O[C@H]6[C@@H]([C@H]([C@@H](CO6)O)O)O)C)O | C34H44O14
